US07476399B2
3-methyl-N-(p-tolylethyl)furan-2-carboxamide
Prepared in a similar manner as described in example 4 from 3-methylfuran-2-carboxylic acid and 2-p-tolylethanamine. MS (M+H, 244).

reactant | 3-methylfuran-2-carboxylic acid | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | 2-p-tolylethanamine | C1(=CC=C(C=C1)CCN)C | C9H13N
product | 3-methyl-N-(p-tolylethyl)furan-2-carboxamide | CC1=C(OC=C1)C(=O)NCCC1=CC=C(C=C1)C | C15H17NO2
